plaintext
   * SPICE Netlist

   .model NMOS NMOS
   .model PMOS PMOS

   VIN Vin 2 DC 0
   RD1 3 4 1k
   Q1 2 2 4 NMOS
   Q2 4 5 0 PMOS
   I1 3 5 DC 1mA
   RP 4 0 1k
   R1 5 0 1k
   R2 5 0 1k

   .end